US06265447B1
Similarly to Example 3a), a solution of 4 g (40.8 mmol) of cyclopropyl ethyl ketone and 2.4 g (24 mmol) of methyl cyanoacetate was reacted to give 0.9 g (21% yield) of methyl 2-cyano-3-cyclopropylpent-2-enoate.

reactant | cyclopropyl ethyl ketone | 40.8 mmol, 4 g | C(C)C(=O)C1CC1 | C6H10O
reactant | methyl cyanoacetate | 24 mmol, 2.4 g | C(#N)CC(=O)OC | C4H5NO2
product | methyl 2-cyano-3-cyclopropylpent-2-enoate | 0.9 g, 21% yield | C(#N)C(C(=O)OC)=C(CC)C1CC1 | C10H13NO2
